US07291631B2
Using General Procedure B, reaction of 1-methyl-1-pyridin-2-yl-ethylamine (Chakravarty, PK et al. Bioorg. Med. Chem. Lett. 2003, 13, 147-150) with 4-(1,3-Dioxo-1,3-dihydroisoindole-2-yl)-butyraldehyde and NaBH(OAc)3 gave 2-[4-(1-methyl-1-pyridin-2-yl-ethylamino)-butyl]-isoindole-1,3-dione as a colorless oil. 1H NMR (CDCl3) δ 1.46 (s, 6H), 1.50-1.56 (m, 2H), 1.60-1.74 (m, 2H), 2.31 (t, 2H, J=7.0 Hz), 3.65 (t, 2H, J=7.1 Hz), 7.07-7.14 (m, 1H), 7.39 (d, 1H, J=8.3 Hz), 7.63 (td, 1H, J=7.7, 1.8 Hz), 7.66-7.74 (m, 2H), 7.77-7.87 (m, 2H), 8.56 (d, 1H, J=3.9 Hz).

reactant | 1-methyl-1-pyridin-2-yl-ethylamine | CC(C)(C1=NC=CC=C1)N | C8H12N2
reactant | 4-(1,3-Dioxo-1,3-dihydroisoindole-2-yl)-butyraldehyde | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 2-[4-(1-methyl-1-pyridin-2-yl-ethylamino)-butyl]-isoindole-1,3-dione | CC(C)(C1=NC=CC=C1)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C20H23N3O2
